US08420816B2
STEP C: (2R,3R)—N-cyclopentyl-3-methyl-2-(3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)pentanamide
In a manner similar to Step C of Example 19, 4-(((2R,3R)-1-(cyclopentylamino)-3-methyl-1-oxopentan-2-ylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid was cyclized in a mixture of THF (2 mL), HATU (112 mg, 0.296 mmol) and 4-methylmorpholine (37.4 mg, 0.370 mmol) and the resulting product was purified via preparative mass trigger LC-MS (AcCN/H2O, 5-50%). The fractions were collected, concentrated, and dried in vacuo to afford the title compound as a yellow oil (32 mg, 37% from Step A starting material). 1H NMR (400 MHz, CD3OD) δ 0.61-0.72 (m, 2 H) 0.90-1.06 (m, 5 H) 1.37-1.66 (m, 7 H) 1.66-1.77 (m, 2 H) 1.77-1.99 (m, 4 H) 3.98-4.22 (m, 1 H) 4.85-4.97 (m, 2 H) 5.21 (d, J=9.35 Hz, 1 H). [M+H] calc'd for C20H26N4O2, 355; found, 355.5.

reactant | 4-(((2R,3R)-1-(cyclopentylamino)-3-methyl-1-oxopentan-2-ylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid | C1(CCCC1)NC([C@@H]([C@@H](CC)C)NCC1=C2C(=NC=C1)NC=C2C(=O)O)=O | C20H28N4O3
reactant | HATU | 0.296 mmol, 112 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-methylmorpholine | 0.370 mmol, 37.4 mg | CN1CCOCC1 | C5H11NO
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (2R,3R)—N-cyclopentyl-3-methyl-2-(3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)pentanamide | 32 mg, 37% | C1(CCCC1)NC([C@@H]([C@@H](CC)C)N1CC=2C=CN=C3C2C(C1=O)=CN3)=O | C20H26N4O2
